US09375000B2
Step 1: Synthesis of 2-({2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methyl)-1H-isoindole-1,3(2H)-dione
{2-({2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methanol (Reference document: WO 2010/043315) (2.20 g), phthalimide (0.72 g) and triphenylphosphine (1.40 g) were dissolved in tetrahydrofuran (50 ml), and to the solution was added diethyl azodicarboxylate (40% toluene solution, 2.43 ml) at room temperature. After stirring the reaction solution for 3 hours, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the target compound (2.35 g).

reactant | {2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methanol | 2.20 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CO)C(F)(F)F | C17H12Cl3F6N3O
reactant | phthalimide | 0.72 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.43 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-({2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methyl)-1H-isoindole-1,3(2H)-dione | 2.35 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CN1C(C2=CC=CC=C2C1=O)=O)C(F)(F)F | C25H15Cl3F6N4O2
